Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ y/o man with DM, CKD stage III, HTN, h/o prior 
UTIs, h/o prostate CA s/p radiation, who presents here today 
with fever and weakness.  Per patient, he was brought to the 
hospital after EMS was called by the maintenance man in his 
apartment building.  The patient was in the laundry room and had 
difficulty getting up, prompting concern and referral to the ED. 
The patient reports he did not want to come to the hospital as 
he was otherwise feeling fine, despite some weakness today along 
with rhinorrhea and dry cough the last 2 days.  He denies any 
f/c/s at home and was surprised to find that he had a fever 
here. 
He reports intermittent, ongoing urinary frequency due to his 
"prostate issues", but did note he had a recent UTI "some time 
back" that was treated with antibiotics.  Upon review of the 
___ records, this was back in ___, at which time he had B 
Strep in his urine and was treated with amoxicillin for 7 days.  
He reports that after treatment his symptoms improved, but 
returned with dysuria and worsening frequency - he is unable to 
specify for how long.  He recently saw his PNP at ___ (last 
week), and there is no mention of urinary symptoms.  He denies 
any n/v/abd pain/back pain.  
Denies any CP, SOB, palpitations.  He reports chronic LLE 
swelling compared to the RLE and thinks there is no change.  
Denies any pain in his LLE.  
12-pt ROS otherwise negative in detail except for as noted 
above. 
In the ED he had a Tm of 103, and HR in the 110s.  He was given 
one liter of NS, CTX and Vancomycin with improvement in his 
vitals.  CXR was negative for PNA; U/A was positive.  He was 
subsequently admitted to the medical service. 
 
Past Medical History:
-DM (diabetes mellitus), type 2 with renal complications  
-Chronic renal insufficiency, stage III (Cr 1.5-1.9)  
-Vitamin D deficiency
-Colonic adenoma (sigmoid)  
-Adenocarcinoma from gastric polyp s/p removal c/b GI bleed
-Impotence ___ erectile dysfunction  
-History of prostate cancer, s/p radiation therapy
-Osteoarthrits of the left knee 
-Hepatitis C - no treatment, but liver was biopsied per patient
-Open angle glaucoma  
-Hypertension 
-Positive PPD 
-History of gallstones
-Cataracts bilaterally, with surgical removal in L eye. Patient 
states he has a L dilated pupil since the surgery
-h/o GIB (pt no longer on ASA or any NSAIDs)
 
Social History:
___
Family History:
maternal grandmother - DM
mother - DM, died of cervical cancer
father - healthy as far as patient is aware
sister - deceased, from complications of DM
 
Physical Exam:
VS: Tc 99.7/Tm 103.4, BP 110/59, HR 77, RR 18, SaO2 100/RA
General: older man in NAD, AO x 3, stuttering speech
HEENT: Anicteric sclerae, MM dry, OP clear
Neck: supple, no LAD
Chest: CTA-B, no w/r/r
CV: RRR s1 s2 normal, ___ SM best heard at the apex
Abd: soft, NT/ND, NABS
Ext: 2+ pitting edema in the LLE with definite warmth over the 
left pretibial surface without appreciable wounds or open 
lesions, RLE with 1+ edema, evidence of PAD in both extremities 
with lack of hair, shiny skin
Neuro: AO x 3, no focal deficits
Skin: warm, dry

Discharge Physical Exam: 
VS: 98.2, 128/65, 66, 18, 100RA
General: older man in NAD, sitting in bed, not wanting to talk
HEENT: Anicteric sclerae, MMM, OP clear
Neck: supple, no LAD
Chest: CTAB
CV: RRR, ___ SM best heard at the apex
Abd: soft, NT/ND, NABS
Ext: 2+ pitting edema in the LLE with definite warmth over the 
left pretibial surface without appreciable wounds or open 
lesions, RLE with 1+ edema, evidence of PAD in both extremities 
with lack of hair, shiny skin. Improved over admission
Neuro: Fluent speech, no facial droop
Skin: warm, dry
 
Pertinent Results:
___ 12:40PM   WBC-17.1*# RBC-4.08* HGB-11.8* HCT-34.2* 
MCV-84 MCH-28.9 MCHC-34.5 RDW-14.8 RDWSD-44.9
___ 12:40PM   NEUTS-88* BANDS-6* LYMPHS-1* MONOS-4* EOS-1 
BASOS-0 ___ MYELOS-0 AbsNeut-16.07* AbsLymp-0.17* 
AbsMono-0.68 AbsEos-0.17 AbsBaso-0.00*
___ 12:40PM   PLT SMR-NORMAL PLT COUNT-240
___ 12:40PM   ___ PTT-26.5 ___
___ 12:40PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:40PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 12:40PM URINE  RBC-11* WBC->182* BACTERIA-MOD 
YEAST-NONE EPI-0
___ 12:15PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 12:40PM   GLUCOSE-138* UREA N-36* CREAT-1.8* SODIUM-139 
POTASSIUM-3.6 CHLORIDE-102 TOTAL CO2-23 ANION GAP-18
___ 12:40PM   ALT(SGPT)-30 AST(SGOT)-39 ALK PHOS-66 TOT 
BILI-0.8
___ 12:40PM   LIPASE-55
___ 12:47PM   LACTATE-2.2*

___ CXR:
Heart size is top normal.  Mediastinal and hilar contours are 
unremarkable.  Lung volumes are low with crowding of 
bronchovascular structures.  No overt pulmonary edema is 
present.  Patchy right infrahilar opacity likely reflects 
atelectasis.  No focal consolidation, pleural effusion or 
pneumothorax is demonstrated.  There are no acute osseous 
abnormalities 

___ Left ___:
No evidence of deep venous thrombosis in the left lower 
extremity veins.

  

___. MED 8S ___ 10:47 AM 
MR HEAD W/O CONTRAST; MRA BRAIN W/O CONTRAST; MRA NECK W&W/O 
CONTRAST   Clip # ___   
Reason: rule out stroke rule out stroke rule out ischemia for 
watershed infarct  
 Contrast: MULTIHANCE Amt: 16 
 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old man with ataxia and CT head concerning for 
watershed infarct  
REASON FOR THIS EXAMINATION: 
   rule out stroke  
CONTRAINDICATIONS FOR IV CONTRAST: 
    

Final Report 
EXAMINATION:  MRI AND MRA BRAIN AND MRA NECK PT11 MR ___ 
  
INDICATION:  ___ year old man with ataxia and CT head concerning 
for watershed 
infarct.  Evaluate for acute infarct. 
  
TECHNIQUE:  Three dimensional time of flight MR arteriography 
was performed 
through the brain with maximum intensity projection 
reconstructions. 
  
Dynamic MRA of the neck was performed during administration of 
16 mL of 
Multihance intravenous contrast. 
  
Brain imaging was performed with sagittal T1 and axial FLAIR, 
T2, gradient 
echo and diffusion technique. 
  
Three dimensional maximum intensity projection and segmented 
images were 
generated. This report is based on interpretation of all of 
these images. The 
examination was performed using a 1.5T MRI. 
  
COMPARISON:  ___ noncontrast head CT. 
  
FINDINGS:  
  
Study is moderately degraded by motion. 
  
MRI Brain: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.  There is prominence of the ventricles and sulci 
suggestive 
involutional changes.  Extensive periventricular, pontine and 
subcortical T2 
and FLAIR hyperintensities are noted, which may represent small 
vessel 
ischemic changes. 
  
MRA brain:  Evaluation of the M2 and distal middle cerebral 
artery arteries is 
limited secondary to motion degradation.  Within limits of 
study, a 
intracranial vertebral and internal carotid arteries and their 
major branches 
appear grossly patent. 
  
MRA neck:  The common, internal and external carotid arteries 
appear normal.  
There is no evidence of internal carotid artery stenosis by 
NASCET criteria.  
The origins of the great vessels, subclavian and vertebral 
arteries appear 
normal bilaterally. 
  
IMPRESSION: 
  
  
1. Study is moderately degraded by motion, especially on MR 
angiography. 
2. Patent cervical carotid and vertebral arteries, without 
evidence of 
dissection or aneurysm. 
3. Grossly patent circle of ___. 
4.  No acute intracranial abnormality, with no evidence of acute 
infarct. 
5. Extensive probable small vessel ischemic changes in atrophy 
as described. 

  

___. MED ___ 12:48 ___ 
CT HEAD W/O CONTRAST   Clip # ___   
Reason: possible subdural hematoma?  
 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old man with shuffling gait, UE tremor found to have 
fallen prior to  
   arriving to ER now w/UTI and LLE cellulitis. 
REASON FOR THIS EXAMINATION: 
   possible subdural hematoma?  
CONTRAINDICATIONS FOR IV CONTRAST: 
    
Final Report 
EXAMINATION:  CT HEAD W/O CONTRAST 
  
INDICATION:  ___ year old man with baseline shuffling gait and 
upper extremity 
tremor, status post unwitnessed fall, now with urinary tract 
infection and 
left lower extremity cellulitis.  Evaluate for subdural 
hemorrhage. 
  
TECHNIQUE:  Contiguous axial images from skullbase to vertex 
were obtained 
without intravenous contrast.  Coronal and sagittal reformations 
were also 
performed. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 4.0 s, 15.1 cm; CTDIvol = 45.3 mGy 
(Head) DLP = 
684.4 mGy-cm. 
 Total DLP (Head) = 684 mGy-cm. 
  
COMPARISON:  ___ noncontrast head CT. 
  
FINDINGS:  
  
In the watershed region of the right MCA/PCA territories, is 
loss of cortical 
gray-white differentiation.  There is no evidence of hemorrhage 
or large mass. 
Periventricular and subcortical white matter hypodensities are 
nonspecific, 
but likely represent chronic small vessel ischemic disease.  
Prominence of the 
ventricles and sulci is suggestive of involutional changes. 
  
No fracture seen. The imaged portion of the paranasal sinuses, 
mastoid air 
cells, and middle ear cavities are clear. The imaged portion of 
the orbits are 
unremarkable.  Soft tissue densities are noted within bilateral 
external 
auditory canals which may represent cerumen. 
  
IMPRESSION: 
  
  
1. Loss of gray-white differentiation in the watershed region of 
the right 
MCA/PCA territories concerning for acute to early subacute 
infarct.  If 
clinically indicated, brain MRI may be obtained for further 
evaluation. 
2. No evidence of acute intracranial hemorrhage. 
  
NOTIFICATION:  Reviewed by ___, M.D. with neuroradiology 
fellow, 
___, M.D. 
  
All findings were discussed with ___, M.D. by ___ 
___, M.D. on the 
telephone on ___ at 8:37 ___. 

 
Discharge Labs:
___ 06:10AM BLOOD WBC-8.4 RBC-3.45* Hgb-10.0* Hct-28.6* 
MCV-83 MCH-29.0 MCHC-35.0 RDW-14.7 RDWSD-44.6 Plt ___
___ 06:10AM BLOOD Glucose-116* UreaN-40* Creat-1.6* Na-137 
K-3.8 Cl-103 HCO3-23 AnGap-15
___ 06:10AM BLOOD ALT-39 AST-49* AlkPhos-55 TotBili-0.3
___ 06:10AM BLOOD Calcium-8.8 Phos-2.7 Mg-1.___ssessment/plan: 
___ y/o man with h/o prostate CA s/p radiation ___, h/o prior 
UTIs (last UTI documented in ___, HTN, DM, CKD stage III, 
admitted with fever, leukocytosis, with exam and laboratory data 
consistent with UTI and LLE cellulitis. Patient reports chronic 
___ edema and per Atrius records, has been on Torsemide 20 mg in 
the past, no ECHO noted in chart. Given concerns for acute or 
subacute stroke on CT, MRI/MRA was done on ___ with no acute 
findings noted. He was monitored on telemetry, started on 
aspirin 81 mg daily, and ECHO was ordered to complete stroke 
work-up and to assess EF given unilateral leg edema. If his 
unilateral leg edema persists, would consider CT abdomen/pelvis 
for additional etiologies of leg edema as outpatient. 

#Sepsis
#UTI
#LLE cellulitis
The patient presented febrile, tachycardic, and with 
leukocytosis and evidence of infection ___ LLE cellulitis and 
positive UA. Urine CX had pan-sensitive proteus. His LLE 
cellulitis improved with IV CTX/Vanco. He was transitioned to PO 
Bactrim/Keflex to complete a 7 day course of antibiotics. 

#LLE edema: Negative for DVT by ___ on admission. He is on 
trosemide but could be related to infection. Will continue home 
torsemide and have the patient follow up with PCP after 
___ of therapy. 

#Ataxia: Unclear how long he has been having symptoms of 
instability; given unclear history that he reports at time of 
admission and reason for admission, obtained head CT w/concerns 
for acute or subacute stroke on ___ MRI/MRA was obtained on 
___ with no acute findings noted. Case was discussed with 
neurology who felth that the MRI read was the correct as his 
neuro exam was not focal. He should follow up with neurology as 
an outpatient. 

#DM2 with complications. ISSH while in ___ but HgA1c 5.7.

#CKD stage III: Cr currently at baseline of 1.5-1.9. Continued 
home lisinopril and initially torsemide but restarted prior to 
discharge. 

#Anemia:
-Iron 32, TIBC 256, Ferritin 244, Transferrin 197; colonoscopy
per atrius chart was ___: tortuous colon, no masses; 
-recent iron studies on ___ at nephrology visit were iron:
112, TIBC: 398, and transferrin 284; 
-f/u with PCP and nephrology for repeat iron studies/CBC;

#HTN
Continued home amlodipine and lisinopril.

#BPH/prostate cancer
Continued home tamsulosin

TRANSITIONAL ISSUES:
-  Outpt Neuro follow up. 
- Complete course of antibiotics for UTI and cellulitis. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. brimonidine 0.2 % ophthalmic BID 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Pantoprazole 40 mg PO Q24H 
4. Simvastatin 20 mg PO QPM 
5. Lisinopril 10 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. Amlodipine 5 mg PO DAILY 
8. TraMADol 50 mg PO Q8H:PRN pain 
9. Torsemide 20 mg PO DAILY 
10. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
11. Ferrous Sulfate 325 mg PO TID 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Ferrous Sulfate 325 mg PO TID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Lisinopril 10 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Simvastatin 20 mg PO QPM 
8. Tamsulosin 0.4 mg PO QHS 
9. brimonidine 0.2 % ophthalmic BID 
10. Torsemide 20 mg PO DAILY 
11. TraMADol 50 mg PO Q8H:PRN pain 
12. Aspirin 81 mg PO DAILY 
13. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 6 Days 
14. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left Lower extremity Cellulitis
UTI
Gait instability

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ due to fever and suspicion for UTI 
and skin infection. You were started on IV antibiotics and 
greatly improved. Your urine culture was sensitive to oral 
antibiotics and you were transitioned. You were seen by ___ who 
recommended rehab. Please complete the course of antibiotics. 
 
Followup Instructions:
___